US06949542B2
3-Oxo-3-(3-pyrimidin-2-yl-phenyl)-propionic acid tert-butyl ester
The title compound was prepared from 3-pyrimidin-2-yl-benzoic acid methyl ester [prepared by the following procedure: 3-Pyrimidin-2-yl-benzoic acid (3.0 g) was esterified by heating in MeOH (160 ml)/4N HCl-Et2O (40 ml) for 16 h at 40° C.; white crystals (1.99 g).] (1.99 g, 9.3 mmol) by treatment with lithium tert-butyl acetate according to general procedure K (method b). Obtained as a light yellow oil (3.24 g, crude product).

reactant | 3-pyrimidin-2-yl-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C1=NC=CC=N1)=O | C12H10N2O2
reactant | 3-Pyrimidin-2-yl-benzoic acid | 3.0 g | N1=C(N=CC=C1)C=1C=C(C(=O)O)C=CC1 | C11H8N2O2
reactant | HCl Et2O | 4N, 40 ml | Cl.CCOCC
reactant | lithium tert-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
solvent | MeOH | 160 ml | CO | CH4O
product | 3-Oxo-3-(3-pyrimidin-2-yl-phenyl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=NC=CC=N1)=O)=O | C17H18N2O3
